US09062034B2
(b) 5-chloro-thiophene-2-carboxylic acid-N-[1-(3-cyclopropyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-1-methyl-ethyl]-amide
200.0 μl (10.0 μmol) of a 0.05 molar 2-(5-chloro-thiophen-2-yl)-4,4-dimethyl-4H-oxazol-5-one solution in toluene/acetic acid 9:1 are combined with 200.0 μl (10.0 μmol) of a 0.05-molar 3-cyclopropyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine solution in DMF and 1.7 μl (10.0 μmol) DIPEA, heated to 80° C. overnight and left to stand for 2 days at room temperature. The reaction solution is filtered through basic aluminium oxide and the filtrate is evaporated down i. vac.

reactant | 2-(5-chloro-thiophen-2-yl)-4,4-dimethyl-4H-oxazol-5-one | 0.05 molar | ClC1=CC=C(S1)C=1OC(C(N1)(C)C)=O | C9H8ClNO2S
reactant | 3-cyclopropyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine | 0.05-molar | C1(CC1)N1CCC2=C(CC1)C=C(C=C2)N | C13H18N2
reactant | DIPEA | 10.0 μmol, 1.7 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene acetic acid | C1(=CC=CC=C1)C.C(C)(=O)O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-thiophene-2-carboxylic acid-N-[1-(3-cyclopropyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-1-methyl-ethyl]-amide | C1(CC1)N1CCC2=C(CC1)C=C(C=C2)NC(=O)C(C)(C)NC(=O)C=2SC(=CC2)Cl | C22H26ClN3O2S
